US06451724B1
45 g of NaOH, 60 ml of water, 60 ml of benzene, 0.3 g of trimethyl-cethyl-ammonium bromide, 19.3(0.088 mol) of 2-methyl-5,6-dihydroindeno[2,1-b]indole, prepared in Example 8-bis, and 7.5 ml (0.12 mol) of CH3I were placed in a bulb. The resulting two-phase system was stirred for 2 hours at room temperature and then 10 minutes at reflux. Then the reaction mixture cooled to room temperature and filtered. The obtained precipitate was washed twice with ethanol and finally dried, thus obtaining 18 g of N-methyl-2-methyl-5,6-dihydroindeno[2,1-b]indole (yield=88%).

reactant | NaOH | 45 g | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
reactant | 2-methyl-5,6-dihydroindeno[2,1-b]indole | CC=1C=C2C3=C(NC2=CC1)CC1=CC=CC=C13 | C16H13N
reactant | CH3I | 0.12 mol, 7.5 ml | CI | CH3I
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-2-methyl-5,6-dihydroindeno[2,1-b]indole | 18 g, yield=88% | CN1C2=C(C3=CC(=CC=C13)C)C1=CC=CC=C1C2 | C17H15N
